US05126337
Ethyl 8-chloro-6,7-difluoro-4-hydroxy-2-(methoxymethylthio)quinoline-3-carboxylate
To a solution of 45 g of diethyl malonate in 500 ml of abs. tetrahydrofuran, 11.2 g of 60% sodium hydride oil suspension was added under ice cooling with stirring. After 15 minutes, 57 g of 2-chloro-3,4-difluorophenyl isothiocyanate was added to the reaction mixture at room temperature with stirring. The reaction mixture was stirred for 15 minutes and then 22.5 g of chloromethyl methyl ether was added at the same temperature.

reactant | diethyl malonate | 45 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 11.2 g | [H-].[Na+]
reactant | 2-chloro-3,4-difluorophenyl isothiocyanate | 57 g | ClC1=C(C=CC(=C1F)F)N=C=S | C7H2ClF2NS
reactant | chloromethyl methyl ether | 22.5 g | COCCl | C2H5ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl 8-chloro-6,7-difluoro-4-hydroxy-2-(methoxymethylthio)quinoline-3-carboxylate | ClC=1C(=C(C=C2C(=C(C(=NC12)SCOC)C(=O)OCC)O)F)F | C14H12ClF2NO4S
